US07842830B2
4,4′-Oxalyldibenzaldehyde (JYC-I-107-A).
To a solution of 4-bromobenzaldehyde diethyl acetal (20.05 g, 77.4 mmol) in 80 mL of dry THF was added 31 mL of n-BuLi (2.5 M in hexanes, 77.4 mmol) by a syringe at −78° C. After stirring at −78° C. for 1 h, the mixture was transferred to a suspension of 1,4-dimethylpiperazine-2,3-dione (DMPD) (5.0 g, 35.0 mmol) in 80 mL of dry THF dropwise via a cannula under an argon counterflow. The reaction mixture was gradually warmed up to room temperature and stirred at room temperature for an additional 2 h. The mixture was then hydrolyzed with 10% HCl and extracted with CH2Cl2. The organic layer was dried over anhydrous MgSO4 and the solvent was removed under reduced pressure. The product was purified by column chromatography (silica gel, dichloromethane:hexanes=4:1 (v/v)) to give a yellow solid (2.00 g, 21% j. 1H NMR (300 MHz, CDCl3, δ): 10.13 (s, 2H), 8.14 (d, J=8.1 Hz, 4H), 8.02 (d, J=8.8 Hz, 4H). 13C{1H} NMR (75 MHz, CDCl3, δ): 192.41, 191.24, 140.22, 136.60, 130.54, 130.04. HRMS-EI (m/z): [M]+ calcd for C16H10O4, 266.0579; found, 266.0584. Anal. Calcd for C16H8N2O2: C, 72.18; H, 3.79. Found: C, 72.03; H, 3.74.

reactant | 4-bromobenzaldehyde diethyl acetal | 77.4 mmol, 20.05 g | C(C)OC(C1=CC=C(C=C1)Br)OCC | C11H15BrO2
reactant | n-BuLi | 77.4 mmol, 2.5 M, 31 mL | [Li]CCCC
reactant | 1,4-dimethylpiperazine-2,3-dione | 35.0 mmol, 5.0 g | CN1C(C(N(CC1)C)=O)=O | C6H10N2O2
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | THF | 80 mL | C1CCOC1 | C4H8O
product | 4,4′-Oxalyldibenzaldehyde | C(C(=O)C1=CC=C(C=O)C=C1)(=O)C1=CC=C(C=O)C=C1 | C16H10O4
